US07001897B2
A solution of 3-t-butyldiphenylsilyloxy-1-(4-{N-isopropyl-N-[2-(p-nitrobenzyloxycarbonylamino)-ethyl]-carbamoyl}-1,3-thiazol-2-yl)azetidine (945 mg, 1.38 mmol) (obtained as described in Reference Example 60(2)) in anhydrous tetrahydrofuran (50 ml) were added successively acetic acid (0.10 ml, 1.66 mmol) and a 1.0M solution of tetra-n-butylammonium fluoride in tetrahydrofuran (1.66 ml, 1.66 mmol) in an ice bath, and the mixture was stirred in the ice bath for 3 hours. After checking the completion of the reaction, the reaction mixture was partitioned between ethyl acetate and saturated aqueous sodium hydrogencarbonate solution. The obtained organic layer was washed with saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using ethyl acetate ethyl acetate:methanol (10:1) as the eluant to afford 3-hydroxy-1-(4-{N-isopropyl-N-[2-(p-nitrobenzyloxycarbonylamino)-ethyl]-carbamoyl}-1,3-thiazol-2-yl)azetidine (433 mg, yield 66%) as a white solid.

reactant | 3-t-butyldiphenylsilyloxy-1-(4-{N-isopropyl-N-[2-(p-nitrobenzyloxycarbonylamino)-ethyl]-carbamoyl}-1,3-thiazol-2-yl)azetidine | 1.38 mmol, 945 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CN(C1)C=1SC=C(N1)C(N(CCNC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(C)C)=O | C36H43N5O6SSi
reactant | acetic acid | 1.66 mmol, 0.10 ml | C(C)(=O)O | C2H4O2
reactant | tetra-n-butylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.66 mmol, 1.66 ml | O1CCCC1 | C4H8O
product | 3-hydroxy-1-(4-{N-isopropyl-N-[2-(p-nitrobenzyloxycarbonylamino)-ethyl]-carbamoyl}-1,3-thiazol-2-yl)azetidine | 433 mg, yield 66% | OC1CN(C1)C=1SC=C(N1)C(N(CCNC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(C)C)=O | C20H25N5O6S
